US07501414B2
12a N-(2-Chloro-6-methyl-4-morpholin-4-yl-phenyl)-2-(3-fluoro-phenyl)-acetamide
N-(4-Amino-2-chloro-6-methyl-phenyl)-2-(3-fluoro-phenyl)-acetamide (616 mg), bis-(2-chloroethyl)ether (260 μL) and potassium iodide (400 mg) were mixed in dry N,N-dimethylformamide (11 mL) and heated to 180° C. for 30 minutes in a sealed microwave process vial. 5% aqueous sodium bicarbonate (100 mL) was added and the mixture was extracted with ethyl acetate (3×80 mL). The combined organic phases were washed with water (2×100 mL), brine (1×100 mL), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash chromatography to furnish 236 mg (31 %) of the title compound as a white solid. LC-MS (m/z) 363 (MH+); tR=2.56, (UV, ELSD) 96%, 99%. 1H NMR (500 MHz, DMSO-d6): 2.04 (s, 3H), 3.10 (m, 4H), 3.65 (s, 2H), 3.70 (m, 4H), 6.79 (d, 1H), 6.85 (d, 1H), 7.07 (dt, 1H), 7.19 (m, 2H), 7.37 (m, 1H), 9.52 (s, 1H).

reactant | N-(4-Amino-2-chloro-6-methyl-phenyl)-2-(3-fluoro-phenyl)-acetamide | 616 mg | NC1=CC(=C(C(=C1)C)NC(CC1=CC(=CC=C1)F)=O)Cl | C15H14ClFN2O
reactant | bis-(2-chloroethyl)ether | 260 μL | ClCCOCCCl | C4H8Cl2O
reactant | potassium iodide | 400 mg | [I-].[K+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
product | N-(2-Chloro-6-methyl-4-morpholin-4-yl-phenyl)-2-(3-fluoro-phenyl)-acetamide | 236 mg, 31 % | ClC1=C(C(=CC(=C1)N1CCOCC1)C)NC(CC1=CC(=CC=C1)F)=O | C19H20ClFN2O2
